* Z:\mnt\spice-netlists\LTM4609.asc
L1 N001 N002 3.3µ
R1 N003 0 7.5m
R2 0 N009 2.74K
V1 IN 0 18
C2 N011 0 .002µ
R3 N006 N004 100K
Rload OUT 0 10
XU1 N009 OUT 0 N001 IN N002 N003 N003 0 N006 N004 N010 N005 N011 IN N007 N008 0 0 NC_01 LTM4609
C3 OUT 0 10µ
C4 OUT 0 100µ
C1 IN 0 100µ
C5 IN 0 4.7µ
.tran 100m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2010 Linear Technology Inc. All rights reserved.
* LTM4609 -  High Efficiency Buck-Boost DC/DC µModule\nInput: 18V     Output: 30V @ 3A
.lib LTM4609.sub
.backanno
.end
