* Z:\mnt\spice-netlists\LTM4611.asc
XU1 0 NC_01 OUT 0 OUT N002 N002 N001 0 N003 N005 NC_02 N004 NC_03 IN 0 LTM4611
V1 IN 0 5
C1 OUT 0 100µ x4
R1 N005 0 48.7K
C2 IN 0 120µ
C3 N004 0 0.001µ
C4 OUT N005 47p
C5 IN 0 47µ
R2 N003 0 5K
R3 N003 N001 15K
Rload OUT 0 0.12
.tran 1m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2010 Linear Technology Inc. All rights reserved.
* LTM4611- 15A, Ultralow Vin,  Step-Down DC/DC µmodule\nInput : 5 V, Output: 1.8 V@15A
.lib LTM4611.sub
.backanno
.end
