* Z:\mnt\spice-netlists\LTM4613.asc
C1 OUT 0 47µ x4
C2 N008 0 10µ x3
V1 IN 0 36
C3 N007 0 .002µ
R4 N009 0 392K
R5 N003 0 5.23K
C4 OUT N003 47p
Rload OUT 0 1.5
XU1 IN 0 OUT N008 N004 N004 NC_01 0 N007 N009 N006 N003 0 0 0 N005 N001 N002 LTM4613
C5 IN 0 100µ
C6 IN 0 10µ
C7 IN 0 10µ
R1 N001 N004 51K
R2 IN N002 51K
.tran 1.5m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
* LTM4613 - 36 Vin, 15 Vout 8A Step Down DC/DC µModule Regulator\nInput: 36V     Output: 12V @ 8A
.lib LTM4613.sub
.backanno
.end
