* Z:\mnt\spice-netlists\LTM4616.asc
V1 IN 0 5
R1 N007 0 10K
C1 OUT2 0 22µ
C2 IN 0 22µ
C3 OUT2 0 100µ
C4 IN 0 150µ
R2 N001 IN 100K
XU1 OUT1 0 NC_01 IN NC_02 NC_03 N002 NC_04 NC_05 N003 NC_06 N003 0 N006 0 MP_07 0 IN NC_08 N005 NC_09 N001 N007 N005 NC_10 N008 N006 N006 N004 N003 NC_11 NC_12 0 N003 0 N009 N003 N002 OUT2 LTM4616
C5 IN 0 22µ
R3 IN N009 100K
C6 OUT1 0 22µ
C7 OUT1 0 100µ
R4 N004 0 4.99k
C8 OUT1 N004 47p
C9 OUT2 N007 47p
R5 N008 0 10K
R6 N008 OUT1 10K
Rload1 OUT1 0 0.225
Rload2 OUT2 0 0.15
R7 N005 0 50K
R8 N005 IN 50K
.tran 250u startup
* LTM4616 - Dual 8A, Step-Down DC/DC µModule\nInput: 5V     Outputs: 1.8V@8A and 1.2V@8A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2008 Linear Technology Inc. All rights reserved.
.lib LTM4616.sub
.backanno
.end
