* Z:\mnt\spice-netlists\LTM4618.asc
XU1 0 NC_01 NC_02 NC_03 OUT MP_04 MP_05 N001 0 N002 N004 NC_06 N003 NC_07 IN 0 LTM4618
C1 N003 0 .001µ
R1 N004 0 28.7K
V1 IN 0 12
C2 OUT 0 47µ
Rload OUT 0 .42
C4 IN 0 150µ
C6 IN 0 10µ
R2 N002 0 3.16K
R3 N001 N002 10K
C3 OUT 0 330µ
.tran 750u startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2010 Linear Technology Inc. All rights reserved.
* LTM4618 - 6A, High Efficiency Step-Down DC/DC µModule Regulator\nInput: 12V     Output: 2.5V @ 6A
.lib LTM4618.sub
.backanno
.end
