* Z:\mnt\spice-netlists\LTM4619.asc
XU1 N006 OUT1 OUT2 N002 N001 NC_01 NC_02 N004 0 NC_03 N005 N003 MP_04 MP_05 N007 MP_06 NC_07 MP_08 MP_09 0 N001 MP_10 MP_11 IN MP_12 NC_13 MP_14 NC_15 NC_16 LTM4619
V1 IN 0 12
C1 N006 0 .0005µ
R1 N002 0 19.1K
C2 OUT1 N002 10p
C3 OUT1 0 100µ
R2 N003 0 48.7K
C4 OUT2 N003 10p
C5 OUT2 0 100µ
C6 N007 0 .0005µ
C7 IN 0 150µ
C8 IN 0 10µ
C9 OUT2 0 22µ
C10 OUT1 0 22µ
C11 N004 0 47p
C12 0 N005 47p
Rload1 OUT1 0 0.825
Rload2 OUT2 0 0.45
.tran 400u startup
* LTM4619 - Dual 4A Step-Down DC/DC µModule\nInput: 12V     Output1: 3.3V @ 4A, Output2: 1.8V @ 4A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2010 Linear Technology Inc. All rights reserved.
.lib LTM4619.sub
.backanno
.end
