* Z:\mnt\spice-netlists\LTM4627.asc
XU1 0 NC_01 OUT 0 OUT N003 N003 N001 0 N004 N007 N005 N006 N002 IN 0 NC_02 LTM4627
V1 IN 0 12
R1 IN N002 10K
R2 N004 0 124K
C1 N006 0 .001µ
C2 N005 0 150p
R3 N007 0 40.2K
Rload OUT 0 0.1
C4 IN 0 22µ
C3 IN 0 150µ
C7 OUT N007 82p
C5 OUT 0 330µ
C6 OUT 0 100µ
.tran 1m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2010 Linear Technology Inc. All rights reserved.
* LTM4627 - 15A, High Efficiency Step-Down DC/DC µModule\nInput: 12V     Output: 1.5V @ 15A
.lib LTM4627.sub
.backanno
.end
