* Z:\mnt\spice-netlists\LTM4620A_2Phase.asc
V1 IN 0 12
C1 OUT 0 100µ
R1 N005 0 90.9K
C2 N007 0 .001µ
C3 IN 0 22µ
C5 OUT 0 100µ
C6 OUT 0 330µ
R3 N003 0 100k
C7 OUT 0 330µ
R4 N002 N001 10K
Rload1 OUT 0 0.077
XU1 N007 N006 N005 0 N005 N006 N007 OUT N004 OUT 0 N004 NC_01 OUT NC_02 N001 N001 0 NC_03 MP_04 MP_05 MP_06 MP_07 NC_08 N002 IN MP_09 MP_10 MP_11 MP_12 NC_13 NC_14 NC_15 0 N003 MP_16 MP_17 NC_18 LTM4620A
ILoad2 OUT 0 PWL(0 0 0.5m 0 0.501m 13 0.6m 13 0.601m 0)
C4 0 N002 4.7µ
.tran 700u startup
* Note:\n  Smaller values are used for TK/SS capacitors to reduce simulation time. See datasheet for typical values.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
* LTM4620A - Dual 13A, Step-Down DC/DC µModule Regulator\nHigh Efficiency Single 26A Step-Down Regulator\nInput : 4.5V to 16V     Output: 1V @ 26A
.lib LTM4620A.sub
.backanno
.end
