* Z:\mnt\spice-netlists\LTM4620A_4Phase.asc
V1 IN 0 12
C1 OUT 0 100µ
R1 N007 0 90.9K
C2 N009 0 .001µ
C3 IN 0 22µ
C5 OUT 0 100µ
C6 OUT 0 330µ
R3 N002 0 100k
C7 OUT 0 330µ
R4 N001 N003 10K
Rload1 OUT 0 0.04
XU1 N009 N008 N007 0 N007 N008 N009 OUT N006 OUT 0 N006 NC_01 OUT NC_02 N003 N003 0 N005 MP_03 MP_04 MP_05 MP_06 NC_07 N001 IN MP_08 MP_09 MP_10 MP_11 N004 N010 NC_12 0 N002 MP_13 MP_14 NC_15 LTM4620A
ILoad2 OUT 0 PWL(0 0 0.5m 0 0.501m 25 0.6m 25 0.601m 0)
C4 OUT 0 100µ
C9 IN 0 22µ
C10 OUT 0 100µ
C11 OUT 0 330µ
R6 N011 0 100k
C12 OUT 0 330µ
XU2 N009 N008 N007 0 N007 N008 N009 OUT NC_16 NC_17 NC_18 NC_19 NC_20 OUT NC_21 N003 N003 0 N014 MP_22 MP_23 MP_24 MP_25 NC_26 N012 IN MP_27 MP_28 MP_29 MP_30 N013 NC_31 NC_32 N010 N011 MP_33 MP_34 NC_35 LTM4620A
C8 0 N012 4.7µ
C13 0 N001 4.7µ
* Note:\n  Smaller values are used for TK/SS capacitors to reduce simulation time. See datasheet for typical values.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
* LTM4620A - Dual 13A, Step-Down DC/DC µModule Regulator\nHigh Efficiency Single 50A Step-Down Regulator\nInput : 4.5V to 16V     Output: 1V @ 50A
.tran 700u startup
.lib LTM4620A.sub
.backanno
.end
